US06794400B2
4-(Bicyclo[2.2.1]hept-5-en-2-yl)-1-(5-nitrothiophen-2-ylmethylidene)thiosemicarbazide
The title compound was prepared from a mixture of N1-bicyclo[2.2.1]hept-5-en-2-ylhydrazine-1-carbothioamide (100 mg, 0.56 mmol) and 5-nitrothiophene-2-carboxaldehyde (88 mg, 0.56 mmol) similar to Example 3 and isolated as an orange solid (67 mg, 37%). 1H NMR (CDCl3): 10.13 (s, 1H), 7.96 (s, 1H), 7.86 (d, J=4.2 Hz, 1H), 7.37 (d, J=7.5 Hz, 1H), 7.17 (d, J=4.2 Hz, 1H), 6.26-6.13 (m, 2H), 4.26-4.20 (m, 1H), 3.05 (s, 1H), 3.00 (s, 1H), 1.95-1.87 (m, 1H), 1.70 (d, J=9.0 Hz, 1H), 1.49 (d, J=9.0 Hz, 1H), 1.46-1.39 (m, 1H).

reactant | N1-bicyclo[2.2.1]hept-5-en-2-ylhydrazine-1-carbothioamide | 0.56 mmol, 100 mg | C12C(CC(C=C1)C2)NC(=S)NN | C8H13N3S
reactant | 5-nitrothiophene-2-carboxaldehyde | 0.56 mmol, 88 mg | [N+](=O)([O-])C1=CC=C(S1)C=O | C5H3NO3S
product | 4-(Bicyclo[2.2.1]hept-5-en-2-yl)-1-(5-nitrothiophen-2-ylmethylidene)thiosemicarbazide | C12C(CC(C=C1)C2)NC(NN=CC=2SC(=CC2)[N+](=O)[O-])=S | C13H14N4O2S2
